US06184244B2
N-[(1-methyl-3-isobutyl-indole-2-carbonyl)valinyl]-3-amino-4-oxo-5-(2-fluorophenyloxy)-pentanoic acid
Treatment of N-[(1-methyl-3-isobutyl-indole-2-carbonyl)valinyl]-3-amino-4-oxo-5-(2-fluorophenyloxy)-pentanoic acid, tert-butyl ester (76 mg, 0.124 mmol) with TFA as described in Example 80 gave the titled product (25.0 mg, 36%) as a white powder. MS C30H36FN3O6, [M+Na]+ =554, [M−H]− =552. TLC (hexane/EtOAc, 50/50): Rf=0.21.

reactant | N-[(1-methyl-3-isobutyl-indole-2-carbonyl)valinyl]-3-amino-4-oxo-5-(2-fluorophenyloxy)-pentanoic acid, tert-butyl ester | 0.124 mmol, 76 mg | CN1C(=C(C2=CC=CC=C12)CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(COC1=C(C=CC=C1)F)=O | C34H44FN3O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[(1-methyl-3-isobutyl-indole-2-carbonyl)valinyl]-3-amino-4-oxo-5-(2-fluorophenyloxy)-pentanoic acid | 25.0 mg, 36% | CN1C(=C(C2=CC=CC=C12)CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)O)C(COC1=C(C=CC=C1)F)=O | C30H36FN3O6
